US09340510B2
N-{(S)-1-[4-(5-Methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-phenyl]-ethyl}-acetamide
To 80 mg (0.24 mmol) (S)-1-[4-(5-methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-phenyl]-ethylamine hydrochloride (example XXXIII.2) in 2.0 mL DCM are added 67 μL (0.48 mmol) TEA and 34 μL (0.26 mmol) acetic anhydride and the resulting mixture is stirred at r.t. over night. 200 μL MeOH are added and the reaction mixture is purified by HPLC.

reactant | (S)-1-[4-(5-methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-phenyl]-ethylamine hydrochloride | 0.24 mmol, 80 mg | Cl.COC1=C2CCN(CC2=CC=C1)CC1=CC=C(C=C1)[C@H](C)N
reactant | acetic anhydride | 0.26 mmol, 34 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | MeOH | 200 μL | CO | CH4O
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N-{(S)-1-[4-(5-Methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-phenyl]-ethyl}-acetamide | COC1=C2CCN(CC2=CC=C1)CC1=CC=C(C=C1)[C@H](C)NC(C)=O | C21H26N2O2
